US05708008
5-(cyclopentyloxycarbonyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole
Beginning with 13 mg (0.0567 mMol) 5-amino-3-(1-methyl-piperidin-4-yl)-1H-indole and 9.27 mg (0.062 mMol) cyclopentyl chloroformate, 18.1 mg (93% of the title compound were recovered.

reactant | 5-amino-3-(1-methyl-piperidin-4-yl)-1H-indole | 0.0567 mMol, 13 mg | NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H19N3
reactant | cyclopentyl chloroformate | 0.062 mMol, 9.27 mg | ClC(=O)OC1CCCC1 | C6H9ClO2
product | 5-(cyclopentyloxycarbonyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole | 93% | C1(CCCC1)OC(=O)NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C20H27N3O2
